.START
..refdes	device	value	footprint	quantity
F1	FUSE	unknown	fuseholder-5mm	1
U100	7400	unknown	DIP14	1
U200	7404	unknown	DIP14	1
U300	7404	unknown	DIP14	1
.END
